US06326369B1
Ethyl 4,5,6,7-tetramethoxy-2-[4-(4-methoxycarbonylphenoxy)butyl]-1-oxo-2-indancarboxylate
A hexane solution of n-butyl lithium (1.68 M, 3.27 ml, 5.50 mmols) was dropwise added to a THF (30 ml) solution of ethyl 2-(6-bromo-2,3,4,5-tetramethoxybenzyl)-2-ethoxycarbonyl-6-(4-methoxycarbonylphenoxy)hexanoate (3.00 g, 4.58 mmols), under a nitrogen stream at −90° C. or lower, and stirring was continued for 15 minutes. Then, the temperature was raised to −78° C., and stirring was further continued for 15 minutes. To the reaction mixtures was added a THF (5 ml) solution of acetic acid (1.38 g, 22.9 mmols) at −70° C. or lower, which was then allowed to warm to room temperature, and a saturated aqueous sodium bicarbonate solution was added thereto, which was then extracted with diethyl ether. The organic layer waswashed with water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out, and the resulting crude product was purified by recrystallization (from hexane-ethyl acetate) to obtain the entitled compound (1.22 g) as crystals.

reactant | n-butyl lithium | 5.50 mmols, 1.68 M, 3.27 ml | C(CCC)[Li]
reactant | ethyl 2-(6-bromo-2,3,4,5-tetramethoxybenzyl)-2-ethoxycarbonyl-6-(4-methoxycarbonylphenoxy)hexanoate | 4.58 mmols, 3.00 g | BrC1=C(C(=C(C(=C1CC(C(=O)OCC)(CCCCOC1=CC=C(C=C1)C(=O)OC)C(=O)OCC)OC)OC)OC)OC | C30H39BrO11
reactant | acetic acid | 22.9 mmols, 1.38 g | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Ethyl 4,5,6,7-tetramethoxy-2-[4-(4-methoxycarbonylphenoxy)butyl]-1-oxo-2-indancarboxylate | 1.22 g | COC1=C2CC(C(C2=C(C(=C1OC)OC)OC)=O)(C(=O)OCC)CCCCOC1=CC=C(C=C1)C(=O)OC | C28H34O10
